US05348965
To a solution of 10,11-dihydro-5H-dibenz[b,f]azepine (8.1 g, 40 mmol) in dry dibutylether (60 ml) kept under an atmosphere of nitrogen, NaH (1.6 g, 40 mmol, 60% oil dispersion) was carefully added. The reaction mixture was heated at reflux temperature for 4 h and then allowed to cool to 80° C. 3-Bromo-1-propyl tetrahydro-2-pyranyl ether (10.7 g, 48 mmol) was added and the mixture was heated at reflux temperature for 16 h. To the cooled reaction mixture was added water (20 ml) and the phases were separated. From the organic phase the solvent was evaporated and the residue was dissolved in a mixture of MeOH (150 ml) and a 4 N aqueous HCl solution (50 ml). The mixture was heated at reflux temperature for 15 minutes and then stirred for 1 h at RT. Water (250 ml) was added and the mixture was extracted with ethyl acetate (2×200 ml). The combined organic extracts was dried (Na2SO4), filtered and the solvent evaporated in vacuo. This afforded a residue which was submitted to chromatography on silica gel (200 g) using a mixture of n-heptane and ethyl acetate (3:2) as eluent to give 5.5 g of 3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propanol as an oil. TLC: rf=0.30 (SiO2 ; n-heptane/ethyl acetate=1:1).

reactant | 10,11-dihydro-5H-dibenz[b,f]azepine | 40 mmol, 8.1 g | C1=CC=CC=2NC3=C(CCC21)C=CC=C3 | C14H13N
reactant | NaH | 40 mmol, 1.6 g | [H-].[Na+]
reactant | 3-Bromo-1-propyl tetrahydro-2-pyranyl ether | 48 mmol, 10.7 g | O1C(CCCC1)OCCCBr | C8H15BrO2
reactant | water | 20 ml | O | H2O
solvent | dibutylether | 60 ml | C(CCC)OCCCC | C8H18O
solvent | n-heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propanol | 5.5 g | C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CCCO | C17H19NO
